US06528543B1
A mixture of 2-(4-chloro-phenyl)-4-methyl-pentanoic acid ethyl ester (508 mg, 1.99 mmol) and urea (239 mg, 3.99 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 4.28 mL, 2.99 mmol) was heated to reflux for 24 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded [2-(4-chloro-phenyl)-4-methyl-pentanoyl]-urea (28.1 mg, 5.2%) as a white solid: mp 164-165° C.; EI-HRMS m/e calcd for C13H17ClN2O2 (M+) 268.0979, found 268.0972.

reactant | 2-(4-chloro-phenyl)-4-methyl-pentanoic acid ethyl ester | 1.99 mmol, 508 mg | C(C)OC(C(CC(C)C)C1=CC=C(C=C1)Cl)=O | C14H19ClO2
reactant | urea | 3.99 mmol, 239 mg | NC(=O)N | CH4N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 2.99 mmol, 4.28 mL | CO | CH4O
product | [2-(4-chloro-phenyl)-4-methyl-pentanoyl]-urea | 28.1 mg, 5.2% | ClC1=CC=C(C=C1)C(C(=O)NC(=O)N)CC(C)C | C13H17ClN2O2
